US06852867B2
To 350 mL of heptane, 70.0 g (156 mmol) of 4-acetoxy-3,5-di-tert-butyl-2-(1-hydroxy-2-pentylheptyl)phenol was added and the mixture was cooled to 10° C. or below. To the mixture, 44.3 g (312 mmol) of a boron trifluoride/diethyl ether complex was added dropwise at 10° C. or below and the mixture was warmed to 30° C. and stirred for 5.5 hours. The solution was cooled to 10° C. or below and thereafter, 350 mL of 7.5% aqueous sodium hydrogencarbonate was added, followed by stirring. The mixture was subjected to liquid-liquid separation and the organic layer was washed with 280 mL of water; thereafter, 7.8 g (40.4 mmol) of 28% sodium methylate and 28 mL of methanol were added and the mixture was stirred for 0.5 hours at room temperature. To the reaction mixture, 280 mL of water was added, followed by stirring; the aqueous layer was discarded and the organic layer was washed with 280 mL of water. To the organic layer, 28.0 g of anhydrous magnesium sulfate and 70.0 g of activated alumina were sequentially added and the mixture was stirred for 0.5 hours at room temperature. The reaction mixture was filtered and the filtrate was concentrated under reduced pressure; thereafter, 70 mL of 1-propanol was added and the mixture was again concentrated under reduced pressure. To the residue, 70 mL of 1-propanol was added to give a solution of 5-acetoxy-4,6-di-tert-butyl-2,2-dipentyl-2,3-dihydrobenzofuran in 1-propanol.

reactant | heptane | 350 mL | CCCCCCC | C7H16
reactant | 4-acetoxy-3,5-di-tert-butyl-2-(1-hydroxy-2-pentylheptyl)phenol | 156 mmol, 70.0 g | C(C)(=O)OC1=C(C(=C(C=C1C(C)(C)C)O)C(C(CCCCC)CCCCC)O)C(C)(C)C | C28H48O4
reactant | sodium hydrogencarbonate | 350 mL | C(O)([O-])=O.[Na+]
reactant | sodium methylate | 40.4 mmol, 7.8 g | C[O-].[Na+]
solvent | water | 280 mL | O | H2O
solvent | methanol | 28 mL | CO | CH4O
product | 5-acetoxy-4,6-di-tert-butyl-2,2-dipentyl-2,3-dihydrobenzofuran | C(C)(=O)OC=1C(=CC2=C(CC(O2)(CCCCC)CCCCC)C1C(C)(C)C)C(C)(C)C | C28H46O3
